US07470680B2
tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidine-1-carboxylate.
To colorless solution of tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate (998 mg, 2.055 mmol) in MeOH (30 mL) was added platinum(IV) oxide (98 mg, 0.432 mmol) at rt. The mixture was shaked on Par Shaker for 3 hr under H2 (55 psi). The mixture was filtered with MeOH (20 mL), concentrated on rotary vacuo to afford the expected product, tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidine-1-carboxylate (995 mg, 100%) as a light grey solid. Mass spec 488.27 Calc for C27H45N3O3Si 487.32, which was pure enough to be used in next reaction.

reactant | tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 2.055 mmol, 998 mg | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)C2=CCN(CC2)C(=O)OC(C)(C)C | C27H43N3O3Si
solvent | MeOH | 30 mL | CO | CH4O
catalyst | platinum(IV) oxide | 0.432 mmol, 98 mg | [Pt](=O)=O
product | tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidine-1-carboxylate | 995 mg, 100% | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)C2CCN(CC2)C(=O)OC(C)(C)C | C27H45N3O3Si
